US04243403
Preparation of 4-methyl-2-(3,4-dichlorophenyl)-3-isothiazoline
Dithio-(3',4'-dichloro)-diisobutyranilide, 12.8 g. (0.0234 mole), was slurried in 250 ml. of ethylene dichloride, and a solution of 9.5 g. (0.0702 mole) of sulfuryl chloride in 25 ml. of ethylene dichloride was added dropwise at 25°-30° C. over one hour. The slurry was stirred overnight to insure completion of the reaction and then filtered to give 8.6 g. of gray 2-(3,4-dichlorophenyl)-4-methyl-3-isothiazolone, m.p. 160°-161° C. The product was crystallized from ethyl acetate to give a m.p. of 161°-163° C.

reactant | sulfuryl chloride | 0.0702 mole | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-(3,4-dichlorophenyl)-4-methyl-3-isothiazolone | ClC=1C=C(C=CC1Cl)N1SC=C(C1=O)C | C10H7Cl2NOS
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | 4-methyl-2-(3,4-dichlorophenyl)-3-isothiazoline | CC1=CN(SC1)C1=CC(=C(C=C1)Cl)Cl | C10H9Cl2NS
